US05840911
1-[4-(N-Hydroxvamidino)-2,3-dihydro-1H-inden-1 -ylideneamino]-2-amino-4-(3-methoxyphenyl)-imidazole dihydrochloride
6.0 ml of 32% hydrochloric acid (Merck, Darmstadt, Germany; p.a.) are added, with stirring, to a mixture of 4.1 g (0.02 mol) of 4-(N-hydroxyamidino)-2,3-dihydro-1H-inden-1-one oxime, 4.08 g (0.02 mol) of 1,2-diamino-4-(3-methoxyphenyl)-imidazole and 100 ml of isopropanol, and the reaction mixture is stirred at 80° C. for 18 hours. The reaction mixture is filtered while hot and the filtration product is washed with isopropanol and dried. In that manner there is obtained the title compound, m.p. 257°-259° C., 1H-NMR (DMSO/D2O): δ=8.24 (d, 1H); 7.91 (s, 1H); 7.75 (d, 1H); 7.61 (t, 1H); 7.38 (t, 1H); 7.25 (m, 2H); 6.95 (m, 1H); 3.76 (s, 3H), 3.27 (s, 4H).

reactant | hydrochloric acid | 6.0 ml | Cl | ClH
reactant | 4-(N-hydroxyamidino)-2,3-dihydro-1H-inden-1-one oxime | 0.02 mol, 4.1 g | ONC(=N)C1=C2CCC(C2=CC=C1)=NO | C10H11N3O2
reactant | 1,2-diamino-4-(3-methoxyphenyl)-imidazole | 0.02 mol, 4.08 g | NN1C(=NC(=C1)C1=CC(=CC=C1)OC)N | C10H12N4O
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | 1-[4-(N-Hydroxvamidino)-2,3-dihydro-1H-inden-1 -ylideneamino]-2-amino-4-(3-methoxyphenyl)-imidazole dihydrochloride | Cl.Cl.ONC(=N)C1=C2CCC(C2=CC=C1)=NN1C(=NC(=C1)C1=CC(=CC=C1)OC)N | InChI=1S/C20H20N6O2.2ClH/c1-28-13-5-2-4-12(10-13)18-11-26(20(22)23-18)24-17-9-8-14-15(17)6-3-7-16(14)19(21)25-27;;/h2-7,10-11,27H,8-9H2,1H3,(H2,21,25)(H2,22,23);2*1H
